US07217724B2
To a suspension of N-(9-fluorenylmethoxycarbonyl)-D-alanine (21.61 g, 69.4 mmol), methylene chloride (230 ml) and N,N-dimethylformamide (0.37 ml) is added dropwise oxalyl chloride (6.46 ml, 74.0 mmol) at room temperature with stirring, and the mixture is further stirred for 2 hours. The reaction solution is concentrated to dryness under reduced pressure to give an oil containing N-(9-fluorenylmethoxy-carbonyl)-D-alanyl chloride. A solution of 1H-indole-7-carboxylic acid diethylamide (10.0 g, 46.3 mmol) in methylene chloride (120 ml) is cooled to −20° C., and thereto is added dropwise a 3M solution of methyl magnesium bromide/diethyl ether (54 ml, 162 mmol). After the addition, the mixture is further stirred at −20° C. for 2 hours. This reaction solution is cooled to −25-−15° C., and thereto is added dropwise a solution of the above obtained N-(9-fluorenylmethoxycarbonyl)-D-alanyl in methylene chloride (140 ml), and the mixture is further stirred at −20° C. for 2 hours. The mixture is warmed to about −5° C., and poured into 2N hydrochloric acid. The organic layer is separated, washed with water (25 ml) and dried over anhydrous magnesium sulfate. The solvent is evaporated under reduced pressure, and the residue is purified by silica gel column chromatography (ethyl acetate/hexane=1/2→5/1) to give the desired (R)-[2-(7-diethylcarbamoyl-1H-indol-3-yl)-1-methyl-2-oxoethyl]carbamic acid 9H-fluoren-9-ylmethyl ester (10.24 g, yield: 43%).

reactant | N-(9-fluorenylmethoxycarbonyl)-D-alanine | 69.4 mmol, 21.61 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C)C(=O)O | C18H17NO4
reactant | oxalyl chloride | 74.0 mmol, 6.46 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-(9-fluorenylmethoxy-carbonyl)-D-alanyl chloride | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C)C(=O)Cl | C18H16ClNO3
reactant | 1H-indole-7-carboxylic acid diethylamide | 46.3 mmol, 10.0 g | C(C)N(C(=O)C=1C=CC=C2C=CNC12)CC | C13H16N2O
reactant | methyl magnesium bromide diethyl ether | 162 mmol, 54 ml | C[Mg]Br.C(C)OCC
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 140 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 230 ml | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 0.37 ml | CN(C=O)C | C3H7NO
product | (R)-[2-(7-diethylcarbamoyl-1H-indol-3-yl)-1-methyl-2-oxoethyl]carbamic acid 9H-fluoren-9-ylmethyl ester | 10.24 g, yield: 43% | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(N[C@@H](C(=O)C1=CNC2=C(C=CC=C12)C(N(CC)CC)=O)C)=O | C31H31N3O4
